US05998463
Preparation 18 5-Acetyl-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one.
To a solution of 1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one (2.0 g, 9.3 mmol) and acetyl chloride (0.86 mL, 12 mmol) in carbon disulfide (40 mL) was added aluminum trichloride (7.4 g, 56 mmol) by portions. The mixture was heated to reflux for 3 hours, then cooled. The liquid phase was decanted and the residue was quenched carefully with ice, then water. The solids were filtered, washed with water, dried and recrystallized from acetone/hexanes to give a pale pink solid, mp 170-171° C. Yield 1.23 g (51%).

reactant | 1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one | 9.3 mmol, 2.0 g | FC(CN1C(CC2=CC=CC=C12)=O)(F)F | C10H8F3NO
reactant | acetyl chloride | 12 mmol, 0.86 mL | C(C)(=O)Cl | C2H3ClO
reactant | aluminum trichloride | 56 mmol, 7.4 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | carbon disulfide | 40 mL | C(=S)=S | CS2
product | 5-Acetyl-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one | C(C)(=O)C=1C=C2CC(N(C2=CC1)CC(F)(F)F)=O | C12H10F3NO2
